US09029409B2
A solution of N-(4-fluoro-3-methoxybenzyl)-6-formyl-2-methylpyrimidine-4-carboxamide (2 g, 6.59 mmol, Preparation #8) in THF (200 mL) was cooled to about −78° C. and methyl magnesium bromide was added drop wise (8.79 mL, 26.4 mmol, 3M in ether). Upon completion of addition, the reaction mixture stirred for about 4 h at −78° C. The reaction mixture was quenched with aqueous ammoniumchloride (20 mL) and the product extracted with EtOAc (2×100 mL). The organic layer was washed successively with water (1×50 mL), brine (1×50 mL), dried over sodium sulphate and concentrated under reduced pressure to afford N-(4-fluoro-3-methoxybenzyl)-6-(1-hydroxyethyl)-2-methylpyrimidine-4-carboxamide (1 g, 47.6% yield) as a light yellow solid. 1H NMR (400 MHz, DMSO): δ 9.40 (bs, 1H) 7.95 (s, 1H) 7.17-7.11 (m, 2H) 6.89-6.88 (m, 1H) 5.75-5.71 (m, 1H) 4.49-4.47 (m, 2H) 3.81 (s, 3H) 2.68 (s, 3H) MS m/z=320 (m+H)+.

reactant | N-(4-fluoro-3-methoxybenzyl)-6-formyl-2-methylpyrimidine-4-carboxamide | 6.59 mmol, 2 g | FC1=C(C=C(CNC(=O)C2=NC(=NC(=C2)C=O)C)C=C1)OC | C15H14FN3O3
reactant | methyl magnesium bromide | C[Mg]Br
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | N-(4-fluoro-3-methoxybenzyl)-6-(1-hydroxyethyl)-2-methylpyrimidine-4-carboxamide | 1 g, 47.6% yield | FC1=C(C=C(CNC(=O)C2=NC(=NC(=C2)C(C)O)C)C=C1)OC | C16H18FN3O3
